US06958352B2
p-Chlorophenol (2 g, 15 mmol), methyl iodide (1.36 ml, 21.8 mmol) and potassium carbonate (2.07 g, 15.6 mmol) in dry acetone (15 ml) were taken in a 50 ml flask. After refluxing for 3 hrs at 60° C., acetone was removed using a rotary evaporator. Water was added and the product was extracted with CH2Cl2 to afford 2.2 g of crude product, which was purified by column chromatography using hexane as eluent to yield p-chloroanisole in 75% yield (1.59 g).

reactant | p-Chlorophenol | 15 mmol, 2 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | methyl iodide | 21.8 mmol, 1.36 ml | CI | CH3I
reactant | potassium carbonate | 15.6 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | p-chloroanisole | 75% yield | ClC1=CC=C(C=C1)OC | C7H7ClO
